US04336391
A suspension of 816 mg. (0.022 mole) of lithium aluminum hydride in 125 ml. tetrahydrofuran is cooled to 5° and treated by the dropwise addition of 3.5 g. (0.011 mole) of 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanone in 125 ml. tetrahydrofuran maintaining the temperature between 5°-8° C. The resulting mixture is then stirred for 4 hours at 0°-5°, then cooled to -50° and quenched by the addition of 10 ml. saturated magnesium sulfate solution. The mixture is warmed to room temperature and filtered and the filtrate is evaporated in vacuo. The resulting residue is dissolved in methylene chloride, washed with water, dried over magnesium sulfate, filtered and evaporated in vacuo. The residue is crystallized from ether to give 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanol, m.p. 166°-169° C.

reactant | lithium aluminum hydride | 0.022 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanone | 0.011 mole | CN(CCC(=O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)C | C19H23N3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-dimethylamino-1-[2-(3-ethyl-5-methyl-4-isoxazolyl)-1H-indol-3-yl]-1-propanol | CN(CCC(O)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)C | C19H25N3O2
